US05709911
First, 1.44 g of trans-4-[trans-4-(2,3-difluorophenyl)cyclohexyl]cyclohexanol, 0.61 g of triethylamine, and 20 ml of dry tetrahydrofuran were placed in a 100 ml flask. Then, 0.53 g of acryloyl chloride was added dropwise to the mixture under ice water cooling. The resultant mixture was allowed to warm to room temperature and stirred overnight. Water was added to the reaction mixture, and an organic layer was extracted with ether. The ether layer was washed with water and dried over anhydrous sodium sulfate. Thereafter, the solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: benzene/hexane=1/2) and recrystallized from hexane to obtain 0.91 g of trans-4-[trans-4-(2,3-difluorophenyl)cyclohexyl]cyclohexyl acrylate (Y: 53.3%). The compound thus obtained had a purity of 98.8% by GC and 99.4% by HPLC. Furthermore, the phase transition temperature of this compound was as follows.

reactant | trans-4-[trans-4-(2,3-difluorophenyl)cyclohexyl]cyclohexanol | 1.44 g | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)O | C18H24F2O
reactant | triethylamine | 0.61 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | acryloyl chloride | 0.53 g | C(C=C)(=O)Cl | C3H3ClO
solvent | Water | O | H2O
product | trans-4-[trans-4-(2,3-difluorophenyl)cyclohexyl]cyclohexyl acrylate | 0.91 g, 53.3% | C(C=C)(=O)O[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C1=C(C(=CC=C1)F)F | C21H26F2O2
